US07041685B2
5-(3-Chloro-thiophen-2-yl)-3-(3-methyl-phenyl)-1H-[1,2,4]-triazole
The title compound was prepared from 3-methyl-benzamidine hydrochloride and 3-chloro-thiophene-2-carboxylic acid hydrazide by a procedure similar to Example 88b as a yellow solid (0.013 g, 5.6%). 1H NMR (CD3OD): 7.75 (s, 1H), 7.69 (d, J=5.7 Hz, 1H), 7.4 (d, J=5.7 Hz, 1H), 7.24 (m, 2H), 6.97 (d, J=6.3 Hz, 1H), 3.10 (s, 3H).

reactant | 3-methyl-benzamidine hydrochloride | Cl.CC=1C=C(C(=N)N)C=CC1
reactant | 3-chloro-thiophene-2-carboxylic acid hydrazide | ClC1=C(SC=C1)C(=O)NN | C5H5ClN2OS
product | 5-(3-Chloro-thiophen-2-yl)-3-(3-methyl-phenyl)-1H-[1,2,4]-triazole | ClC1=C(SC=C1)C1=NC(=NN1)C1=CC(=CC=C1)C | C13H10ClN3S
